US08492378B2
1-acetyl-2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile
A mixture of 1-acetyl-4-iodo-2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine (1.00 g, 2.56 mmol), zinc cyanide (246 mg, 1.41 mmol), tetrakis(triphenylphosphine)palladium(0) (148 mg, 0.128 mmol) and N,N-dimethylformamide (20 mL) was stirred under an argon atmosphere at 80° C. for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-0/1), and crystallized from hexane to give the title compound (472 mg, yield 64%) as colorless crystals.

reactant | 1-acetyl-4-iodo-2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine | 2.56 mmol, 1.00 g | C(C)(=O)N1C(=CC=2C1=NC=CC2I)CCC2=CC=CC=C2 | C17H15IN2O
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 1.41 mmol, 246 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.128 mmol, 148 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-acetyl-2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile | 472 mg, yield 64% | C(C)(=O)N1C(=CC2=C1N=CC=C2C#N)CCC2=CC=CC=C2 | C18H15N3O
